US06583135B2
Preparation of 3-Benzoyl-8-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-8-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.48 g, 4.00 mmol) and tetrakis(triphenylphosphine)palladium (0.46 g, 0.40 mmol) in dimethoxyethane (10.0 mL) and a solution of phenylboronic acid (0.60 g, 4.80 mmol) in dimethoxyethane (10.0 mL) and sodium carbonate (2 M, 12.0 mL) were reacted in a manner similar to Preparation 1 to give a brown foam. Column chromatography (silica gel, 20-50% EtOAc/heptane) afforded 0.53 g (36%) of the title compound as a solid: mp 213-232° C.; 1H NMR (400 MHz, CDCl3) δ 8.13, 7.61, 7.44-7.40, 7.34-7.29, 4.07-3.98, 3.70-3.63, 3.21-3.13, 2.92-2.83; 13C NMR (100 MHz, CDCl3) δ 171.7, 142.3, 137.0, 135.9, 135.3, 134.9, 129.3, 128.7, 128.6, 128.3, 127.3, 126.5, 126.4, 119.3, 117.7, 110.3, 109.0, 51.4, 45.8, 29.1, 26.2; IR (drift) 3262, 1602, 1466, 1432, 1323, 1291, 1243, 811, 781, 763, 751, 743, 707, 699, 627 cm−1; MS (EI) m/z 366 (M+); HRMS (FAB) calcd for C25H22N2O+H: 367.1810, found: 367.1813; Anal. Calcd for C25H22N2O: C, 81.94; H, 6.05; N, 7.64. Found: C, 81.43; H, 6.20; N, 7.42.

reactant | 3-benzoyl-8-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 4.00 mmol, 1.48 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=C(C=CC3C2CC1)Br | C19H17BrN2O
reactant | phenylboronic acid | 4.80 mmol, 0.60 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | dimethoxyethane | 10.0 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 10.0 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 2 M, 12.0 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.40 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-8-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.53 g, 36% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=C(C=CC3C2CC1)C1=CC=CC=C1 | C25H22N2O
